US04250094
In the manner given in Example 5, a solution of 1,3-dihydro-8-methyl-5-(p-isopropylphenyl)-2H-1,4-benzodiazepine-2-thione in n-butyl alcohol was heated to a reflux with (dipropylamino)acetic acid hydrazide to give 9-methyl-1-[(dipropylamino)methyl]-6-(p-isopropylphenyl)-4H-s-triazolo[4,3-a][1,4)benzodiazepine.

reactant | 1,3-dihydro-8-methyl-5-(p-isopropylphenyl)-2H-1,4-benzodiazepine-2-thione | CC1=CC2=C(C(=NCC(N2)=S)C2=CC=C(C=C2)C(C)C)C=C1 | C19H20N2S
reactant | (dipropylamino)acetic acid hydrazide | C(CC)N(CCC)CC(=O)NN | C8H19N3O
solvent | n-butyl alcohol | C(CCC)O | C4H10O
product | 9-methyl-1-[(dipropylamino)methyl]-6-(p-isopropylphenyl)-4H-s-triazolo[4,3-a][1,4)benzodiazepine | CC1=CC2=C(C(=NCC=3N2C(=NN3)CN(CCC)CCC)C3=CC=C(C=C3)C(C)C)C=C1 | C27H35N5
